US04124593
The solution of 300 mg of N-(2-acetoxymethyl-4-nitrophenyl)-4-chlorophthalimide in 35 ml of ethyl acetate is hydrogenated with 200 mg of 5% rhodium on carbon at 2.5 atmospheres of hydrogen pressure for 3 hours. After filtration from the catalyst, the residue is crystallized from ethyl acetate-hexane to give the N-(2-acetoxymethyl-4-aminophenyl)-4-chlorophthalimide melting at 136°-138°.

reactant | N-(2-acetoxymethyl-4-nitrophenyl)-4-chlorophthalimide | 300 mg | C(C)(=O)OCC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C17H11ClN2O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | 200 mg | [Rh] | Rh
product | N-(2-acetoxymethyl-4-aminophenyl)-4-chlorophthalimide | C(C)(=O)OCC1=C(C=CC(=C1)N)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C17H13ClN2O4
